### PR TITLE
higher groupoid laws and a filler function for compPath

### PR DESCRIPTION
**Pull request by bbentzen**
- Homogeneous higher groupoid laws of types
- Filler function for compPath
- Group-like notations for compPath and sym

### CODE REVIEW

File: Cubical/Foundations/GroupoidLaws.agda [hunk 1]
```diff
@@ -0,0 +1,95 @@
...
+  Path (Path A x x) refl (refl · refl)
+compPathRefl x j i =
+  hfill (λ j → λ { (i = i0) → x
+                  ; (i = i1) → x }) (inc x) j
+
+symInvo : (x y : A) (p : x ≡ y) →
+     Path (Path A x y) p ((p ⁻¹)⁻¹)
+symInvo x y p = refl
+
+rUnit : (x y : A) (p : x ≡ y) →
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda]: Why no prove compPathRefl using this?

File: Cubical/Foundations/GroupoidLaws.agda [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+x≡y · y≡z = compPath x≡y y≡z 
+
+infixr 30 _·_
+
+_⁻¹ : {x y : A} → (x ≡ y) → (y ≡ x)
+x≡y ⁻¹ = sym x≡y
+
+-- homogeneous groupoid laws
+
+symRefl : (x : A) →
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda]: How about renaming refl to 1?

File: Cubical/Core/Prelude.agda [hunk 3]
```diff
@@ -47,10 +47,15 @@ cong f p = λ i → f (p i)
...
 -- confusion with transp
-compPath : x ≡ y → y ≡ z → x ≡ z
-compPath {x = x} p q i =
-  hcomp (λ j → \ { (i = i0) → x
-                 ; (i = i1) → q j }) (p i)
+
+compPath-filler : ∀ {x y z : A} → x ≡ y → y ≡ z → I → I → A
+compPath-filler {x = x} p q j i =
+  hfill (λ j → λ { (i = i0) → x
+                  ; (i = i1) → q j }) (inc (p i)) j
```
Comment (ice1000) [inline Cubical/Core/Prelude.agda]: Sounds like you need to reduce one space of indentation.

File: Cubical/Foundations/GroupoidLaws.agda [hunk 4]
```diff
@@ -0,0 +1,95 @@
...
+  Path (Path A x x) refl (refl ⁻¹)
+symRefl x i = refl 
+
+compPathRefl : (x : A) →
+  Path (Path A x x) refl (refl · refl)
+compPathRefl x j i =
+  hfill (λ j → λ { (i = i0) → x
+                  ; (i = i1) → x }) (inc x) j
```
Comment (ice1000) [inline Cubical/Foundations/GroupoidLaws.agda]: Ditto, applies to all the same case below.

File: Cubical/Foundations/GroupoidLaws.agda [hunk 5]
```diff
@@ -0,0 +1,95 @@
...
+   Path (Path A x x) (p · (p ⁻¹)) refl
+rCancel x y p j i =
+  hcomp (λ k → λ { (i = i0) → x
+                  ; (i = i1) → p (~ k ∧ ~ j)
+               -- ; (j = i0) → hfill (λ w → λ { (i = i0) → x; (i = i1) → p (~ w) }) (inc (p i)) k
+                  ; (j = i1) → x }) (p (i ∧ ~ j))
+
+lCancel : (x y : A) (p : x ≡ y) →
+   Path (Path A y y) refl ((p ⁻¹) · p)
+lCancel x y p k i =
```
Comment (3abc) [inline Cubical/Foundations/GroupoidLaws.agda]: I suggest making `(x y : A)` implicit. Also you can do

```
lCancel x y p i = rCancel y x (p ⁻¹) (~ i)
```

instead of a complicated `hcomp`.

File: Cubical/Core/Prelude.agda [hunk 6]
```diff
@@ -47,10 +47,15 @@ cong f p = λ i → f (p i)
...
+
+compPath : ∀ {x y z : A} → x ≡ y → y ≡ z → x ≡ z
+compPath {x = x} p q j =
```
Comment (3abc) [inline Cubical/Core/Prelude.agda]: Just write `compPath p q = compPath-filler p q i1`

File: Cubical/Foundations/GroupoidLaws.agda (hunk 1 above)
Comment (bbentzen) [reply Cubical/Foundations/GroupoidLaws.agda]: Oh, I was being silly. Actually compPathRefl was just an exercise, I forgot to go back to it after I proved rUnit!

File: Cubical/Foundations/GroupoidLaws.agda (hunk 5 above)
Comment (bbentzen) [reply Cubical/Foundations/GroupoidLaws.agda]: That's really nice!

File: Cubical/Foundations/GroupoidLaws.agda (hunk 2 above)
Comment (3abc) [reply Cubical/Foundations/GroupoidLaws.agda]: > I found a really cool unicode symbol instead, 𝟭.

It's a library, a weird unicode like 𝟭 will make people unable to use it.

I think what @mortberg meant was rename `symRefl` as `sym1`?

Comment (bbentzen) [reply Cubical/Foundations/GroupoidLaws.agda]: yeah, let's wait for his response :)

File: Cubical/Core/Prelude.agda (hunk 6 above)
Comment (potato4444) [reply Cubical/Core/Prelude.agda]: @3abc that doesn't work because `compPath-filler p q i1` has a function type, but we are making a path.

File: Cubical/Foundations/GroupoidLaws.agda (hunk 2 above)
Comment (mortberg) [reply Cubical/Foundations/GroupoidLaws.agda]: Ah I see, let's not do this then.

File: Cubical/Core/Prelude.agda (hunk 6 above)
Comment (3abc) [reply Cubical/Core/Prelude.agda]: Oh OK.

Comment (3abc) [reply Cubical/Core/Prelude.agda]: I suggest giving `compPath-filler` a more specific type. 

Maybe bring back the definition of `compPath` and write

```
compPath-filler : ∀ {x y z : A} → (p : x ≡ y) → (q : y ≡ z)
                → PathP (λ i → x ≡ q i) p (compPath p q)
compPath-filler {x = x} p q j i =
  hfill (λ j → λ { (i = i0) → x
                  ; (i = i1) → q j }) (inc (p i)) j
```

This helps to reduce user's mental overhead when they want to use `compPath-filler`

Comment (bbentzen) [reply Cubical/Core/Prelude.agda]: > I suggest giving `compPath-filler` a more specific type.
> 
> Maybe bring back the definition of `compPath` and write
> 
> ```
> compPath-filler : ∀ {x y z : A} → (p : x ≡ y) → (q : y ≡ z)
>                 → PathP (λ i → x ≡ q i) p (compPath p q)
> compPath-filler {x = x} p q j i =
>   hfill (λ j → λ { (i = i0) → x
>                  ; (i = i1) → q j }) (inc (p i)) j
> ```
> This helps to reduce user's mental overhead when they want to use `compPath-filler`

I'd rather not have redundancy --- shouldn't the faces of the filler be explicitly clear from the hfill? It is natural to define the filler first and then extract the Kan composite from it, I think. That's one of the good practices of Redtt (see [this](https://github.com/RedPRL/redtt/blob/master/library/prelude/path.red) file). But that's just my opinion. :)

Comment (3abc) [reply Cubical/Core/Prelude.agda]: > I'd rather not have redundancy --- shouldn't the faces of the filler be explicitly clear from the hfill?

One of the points of a library is that user can have an interface to use it without having to look at details of the implementation. Yes it is kinda clear from `hfill`. But for a user who want to use `compPath-filler` when doing something else, the type of `compPath-filler` is the user interface, and `hfill` is just how you implement `compPath-filler`, which is irrelevant to the user.

So writing it as `I → I → A` it's rather unenlightening.

Also, `hfill` will reduce to `hcomp` anyway so define `compPath` first is not redundant at all.

Comment (3abc) [reply Cubical/Core/Prelude.agda]: Maybe at least put the more precise type `PathP (λ i → x ≡ q i) p (compPath p q)` in comment?

Comment (bbentzen) [reply Cubical/Core/Prelude.agda]: > Maybe at least put the more precise type `PathP (λ i → x ≡ q i) p (compPath p q)` in comment?

That's a great idea! :+1:

File: Cubical/Core/Prelude.agda (hunk 3 above)
Comment (mortberg) [reply Cubical/Core/Prelude.agda]: Indeed. @bbentzen can you please fix?

File: Cubical/Foundations/GroupoidLaws.agda [hunk 7]
```diff
@@ -0,0 +1,93 @@
...
+
+private
+  variable
+    ℓ : Level
+    A : Set ℓ
+
+-- some useful notation
+
+_·_ :  {x y z : A} → (x ≡ y) → (y ≡ z) → (x ≡ z)
+x≡y · y≡z = compPath x≡y y≡z
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda]: This should be upstreamed and be the definition of compPath. How about doing it in this PR? (The font in my browser is a bit weird, but to input this symbol you use `\.` right?)

File: Cubical/Foundations/GroupoidLaws.agda [hunk 8]
```diff
@@ -0,0 +1,93 @@
...
+
+_·_ :  {x y z : A} → (x ≡ y) → (y ≡ z) → (x ≡ z)
+x≡y · y≡z = compPath x≡y y≡z 
+
+infixr 30 _·_
+
+_⁻¹ : {x y : A} → (x ≡ y) → (y ≡ x)
+x≡y ⁻¹ = sym x≡y
+
+𝟭 : {x : A} → x ≡ x
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda]: I think I suggested adding this, maybe that was a mistake. How about changing it back to refl?

File: Cubical/Foundations/GroupoidLaws.agda [hunk 9]
```diff
@@ -0,0 +1,93 @@
...
+𝟭 = refl
+
+-- homogeneous groupoid laws
+
+symInvo : {x y : A} (p : x ≡ y) →
+     Path (Path A x y) p ((p ⁻¹)⁻¹)
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda]: Why not use `≡` instead of the explicit `Path`?

File: Cubical/Foundations/GroupoidLaws.agda [hunk 10]
```diff
@@ -0,0 +1,93 @@
...
+symInvo p = 𝟭
+
+rUnit : {x y : A} (p : x ≡ y) →
+  Path (Path A x y) p (p · 𝟭)
```
Comment (mortberg) [inline Cubical/Foundations/GroupoidLaws.agda]: Use `≡`

File: Cubical/Foundations/GroupoidLaws.agda (hunk 7 above)
Comment (3abc) [reply Cubical/Foundations/GroupoidLaws.agda]: > This should be upstreamed and be the definition of compPath. How about doing it in this PR? (The font in my browser is a bit weird, but to input this symbol you use `\.` right?)

I think he used `\cdot`. I prefer `\.` too.

Comment (bbentzen) [reply Cubical/Foundations/GroupoidLaws.agda]: > This should be upstreamed and be the definition of compPath. How about doing it in this PR?

Do you mean it should be definition or notation of compPath?

>(The font in my browser is a bit weird, but to input this symbol you use `\.` right?)

I used `\cdot`, but I don't have any particular attachment to it. Let me change it to `\.`.

File: Cubical/Foundations/GroupoidLaws.agda (hunk 8 above)
Comment (bbentzen) [reply Cubical/Foundations/GroupoidLaws.agda]: Yeah, that's true --- I will do that in my next commit.

File: Cubical/Foundations/GroupoidLaws.agda (hunk 9 above)
Comment (bbentzen) [reply Cubical/Foundations/GroupoidLaws.agda]: Oh, how come I didn't think of it?

File: Cubical/Core/Prelude.agda (hunk 3 above)
Comment (bbentzen) [reply Cubical/Core/Prelude.agda]: Sure! :)

File: Cubical/Core/Prelude.agda (hunk 6 above)
Comment (bbentzen) [reply Cubical/Core/Prelude.agda]: @mortberg What do you think? Should fillers come before their composite or the other way around? (I need to define more fillers for the heterogeneous groupoid laws.)

Comment (mortberg) [reply Cubical/Core/Prelude.agda]: Let's do fillers first, but with the type in a comment

File: Cubical/Foundations/GroupoidLaws.agda (hunk 7 above)
Comment (mortberg) [reply Cubical/Foundations/GroupoidLaws.agda]: It should be the definition of compPath
